US06458781B1
Preparation of (S)-N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-(cyclohexyl-methyl-amino)-3-methyl-butyramide
A solution of 358 mg (1.68 mmol) (S)-2-(cyclohexyl-methyl-amino)-3-methylbutyric acid, 0.88 mL (5 mmol) N,N-diisopropylethylamine, and 636 mg (1.68 mmol) O-Benzotriazol-1-yl-N,N,N′,N′-bis(tetramethylene)uronium hexafluorophosphate in 4 mL dry DMF was stirred at 3° for 60 minutes, at which time 500 mg (1.68 mmol) 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride was added, and the reaction stirred an additional 10 minutes at 3°, then warmed to 25° C. for 50 minutes at which time it was diluted with 20 mL diethyl ether, and washed with 20 mL saturated aqueous sodiumbicarbonate solution and twice with 20 mL brine, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue thus obtained was further purified by silica gel chromatography using 40% ethyl acetate in hexanes as eluant, followed by conversion to the hydrochloride salt by treatment with excess diethyl ether which had been saturated with hydrogen chloride gas to give 577 mg (68%) mp 82-86° C. APCI-MS m/z 457.4 (MH+).

reactant | (S)-2-(cyclohexyl-methyl-amino)-3-methylbutyric acid | 1.68 mmol, 358 mg | C1(CCCCC1)N([C@H](C(=O)O)C(C)C)C | C12H23NO2
reactant | N,N-diisopropylethylamine | 5 mmol, 0.88 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.68 mmol, 500 mg | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (S)-N-[4,4-Bis-(4-fluoro-phenyl)-butyl]-2-(cyclohexyl-methyl-amino)-3-methyl-butyramide | FC1=CC=C(C=C1)C(CCCNC([C@H](C(C)C)N(C)C1CCCCC1)=O)C1=CC=C(C=C1)F | C28H38F2N2O
